US06277987B1
A solution of 4-chlorophenylbenzene (7.02 g, 37.2 mmol) in 70 mL of dichloromethane is treated with chlorosulfonic acid (4.55 g, 39.1 mmol) at RT. The reaction is stirred for 2 h further, and the formed precipitate is collected by vacuum filtration, washed with dichloromethane and dried to afford 9.6 g (96%) of 4′-chlorobiphenyl-4-sulfonic acid as a white solid.

reactant | 4-chlorophenylbenzene | 37.2 mmol, 7.02 g | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | chlorosulfonic acid | 39.1 mmol, 4.55 g | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 4′-chlorobiphenyl-4-sulfonic acid | 9.6 g, 96% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C12H9ClO3S
